US06500863B1
a) 2-chloro-3-fluoronitrobenzene
To a −78° C. solution of 3-fluoronitrobenzene (2 g, 14.2 mmol) in THF (30 mL) was added N-chlorosuccinimide (5.69 g, 42.6 mmol) in THF (20 mL), NaHMDS (1 M in THF, 28.4 mL, 28.4 mmol) was then added dropwise to maintain an internal temperature below −75° C. The resulting mixture was stirred for 30 min at −78° C. Then it was partitioned between 5% of HCl and ethyl acetate. The combined organic layer is dried over MgSO4 and filtered. The solvent was evaporated and chromatography of the resulting solid on silica gel (20% Ethyl acetate Hexane) gave the desired product(231 mg, 9.2%). EI-MS m/z 176.5 (M+).

reactant | 3-fluoronitrobenzene | 14.2 mmol, 2 g | FC=1C=C(C=CC1)[N+](=O)[O-] | C6H4FNO2
reactant | N-chlorosuccinimide | 42.6 mmol, 5.69 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | NaHMDS | 28.4 mmol, 1 M, 28.4 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-chloro-3-fluoronitrobenzene | 231 mg, 9.2% | ClC1=C(C=CC=C1F)[N+](=O)[O-] | C6H3ClFNO2
